US06720336B2
To a solution of cyclobutanecarboxylic acid N′-{4-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-benzoyl}-hydrazide (0.2 g, 0.40 mmol) in CH2Cl2 (3 mL) was added pyridine (0.08 mL, 1.0 mmol). The reaction mixture was cooled to −78° C. Triflic anhydride (0.14 mL, 0.84 mmol) was added dropwise. The mixture was stirred at −78° C. for 1 hour and at room temperature for 2 hours. The reaction was quenched with saturated aqueous sodium bicarbonate (3 mL). The aqueous layer was washed with CH2Cl2 (3×5 mL) and the combined extracts were dried (MgSO4) and concentrated. Purification by flash chromatograpy with EtOAc afforded 0.19 g (quantitative yield) of 1-Benzyl-4-[4-(5-cyclobutyl-[1,3,4]oxadiazol-2-yl)-phenyl]-4-(3-methoxy-phenyl)-piperidine. 1HNMR (400 MHz, CDCl3) δ 7.92 (d, 2H), 7.37 (d, 2H), 7.36-7.16 (comp, 6H), 6.83 (d, 1H), 6.80 (s, 1H), 6.60 (d, 1H), 3.81-3.78 (m, 1H), 3.77 (s, 3H), 3.45 (s, 2H), 2.82-2.38 (comp, 10H), 2.21-2.19 (comp, 2H); MS (M+1) 480.2.

reactant | cyclobutanecarboxylic acid N′-{4-[1-benzyl-4-(3-methoxy-phenyl)-piperidin-4-yl]-benzoyl}-hydrazide | 0.40 mmol, 0.2 g | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=CC=C(C(=O)NNC(=O)C2CCC2)C=C1 | C31H35N3O3
reactant | pyridine | 1.0 mmol, 0.08 mL | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 0.84 mmol, 0.14 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-[4-(5-cyclobutyl-[1,3,4]oxadiazol-2-yl)-phenyl]-4-(3-methoxy-phenyl)-piperidine | 0.19 g, quantitative yield | C(C1=CC=CC=C1)N1CCC(CC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)C=1OC(=NN1)C1CCC1 | C31H33N3O2
